US07858632B2
To 25 ml of saturated NH3 in EtOH was added 4-Chloro-5-(5-chloro-2-isopropyl-4-methoxy-benzyl)-2-methylsulfanyl-pyrimidine (0.580 g, 1.6 mmol). The solution was warmed to 85° C. in a sealed reaction vessel. After 3 days the solution was cooled, concentrated in vacuo and suspended in CH2Cl2. The precipitate was filtered and the mother liquor was concentrated in vacuo. Purification via flash chromatography (7:3 hexane/ethyl acetate) afforded 5-(5-chloro-2-isopropyl-4-methoxy-benzyl)-2-methylsulfanyl-pyrimidin-4-ylamine (0.504 g, 92%) as a white solid.

reactant | NH3 | 25 ml | N | H3N
reactant | 4-Chloro-5-(5-chloro-2-isopropyl-4-methoxy-benzyl)-2-methylsulfanyl-pyrimidine | 1.6 mmol, 0.580 g | ClC1=NC(=NC=C1CC1=C(C=C(C(=C1)Cl)OC)C(C)C)SC | C16H18Cl2N2OS
solvent | EtOH | CCO | C2H6O
product | 5-(5-chloro-2-isopropyl-4-methoxy-benzyl)-2-methylsulfanyl-pyrimidin-4-ylamine | 0.504 g, 92% | ClC=1C(=CC(=C(CC=2C(=NC(=NC2)SC)N)C1)C(C)C)OC | C16H20ClN3OS
